US08067621B2
[1,4-Difluoro-10a-(4-trifluoromethyl-benzenesulfonyl)-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-ylidene]-acetonitrile
To a 0° C. mixture of 60% NaH oil dispersion (60 mg) in tetrahydrofuran (11 mL) was added diethyl cyanomethylphosphonate (0.235 mL). After being stirred for 10 min at 0° C., 1,4-difluoro-10a-(4-trifluoromethyl-benzenesulfonyl)-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one (0.50 g, 1.12 mmol) was added to the resulting clear and colorless solution. After 1 h, saturated aqueous NH4Cl was added to the reaction solution. This mixture was then extracted with ethyl acetate (3×). The combined organic layers were dried over Na2SO4, filtered and concentrated. The resulting crude residue (0.574 g) was used without further purification.

reactant | NaH | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 0.235 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 1,4-difluoro-10a-(4-trifluoromethyl-benzenesulfonyl)-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-one | 1.12 mmol, 0.50 g | FC1=C2C3(C(COC2=C(C=C1)F)CC(CC3)=O)S(=O)(=O)C3=CC=C(C=C3)C(F)(F)F | C20H15F5O4S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 11 mL | O1CCCC1 | C4H8O
product | [1,4-Difluoro-10a-(4-trifluoromethyl-benzenesulfonyl)-6a,9,10,10a-tetrahydro-6H,7H-benzo[c]chromen-8-ylidene]-acetonitrile | FC1=C2C3(C(COC2=C(C=C1)F)CC(CC3)=CC#N)S(=O)(=O)C3=CC=C(C=C3)C(F)(F)F | C22H16F5NO3S
